US04017637
Cis-2-(α-Dimethylamino-m-Methoxybenzyl)Cyclohexanol
A solution of m-methoxybenzalcyclohexanone (50 g. 2.31 × 10-1 moles) in ether (50 ml.) was cooled to -5° in a pressure bottle and treated with 20 ml. dimethylamine (3 × 10-1 moles). The bottle was stoppered and left at room temperature during 60 hours. The above reaction was performed in duplicate (IR monitoring indicates the mixture attains an equilibrium concentration in which the β-dimethylamino ketone addition product is favored over the m-methoxybenzalcyclohexanone by a ratio of ca. 2:1). the combined total reaction mixtures were added dropwise under nitrogen to a stirred suspension of LiAlH4 (20 g.) in ether (1.2 liters) and the mixture was refluxed during 4 hours. The ice cooled reaction mixture was treated with 3% aqueous NaOH solution (100 ml.) and filtered. The precipitated solids were washed with boiling ether and the combined filtrates evaporated to approximately 1 liter. The ether layer was extracted (twice) with an excess of dilute HC1 followed by a water extraction. The combined aqueous extracts were back extracted with ether, basified with 50% NaOH and extracted with ether (twice). The ether layers were washed with brine and evaporated to an oil (50 g.) shown by gle to consist predominantly (96%) of two components. 32 g. of the residue were chromatographed on a Woelm alumina column (900 g. neutral activity Grade III), built in benzene-hexane (1:1). Benzene-hexane fractions (1:1 and 2:1) eluted the major component trans-2-(α-dimethylamino-m-methoxybenzyl)cyclohexanol (20 g.) NMR (CDC13): δ 2.28 (GH singlet N(CH3)2), 3.0 (1H doublet J=3 cps CH N(Me)2), 3.3-3.7 (1H broad multiplet Ch(OH)), 3.8 (3H singlet OCH3) ppm.

reactant | m-methoxybenzalcyclohexanone | 2.31 × 10-1 moles, 50 g | COC1C(C(CCC1)=O)=CC1=CC=CC=C1 | C14H16O2
reactant | dimethylamine | 3 × 10-1 moles | CNC | C2H7N
reactant | LiAlH4 | 20 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 100 ml | [OH-].[Na+]
reactant | ether | 50 ml | CCOCC | C4H10O
reactant | ether | 1.2 liters | CCOCC | C4H10O
product | Cis-2-(α-Dimethylamino-m-Methoxybenzyl)Cyclohexanol | CN(C(C1=CC(=CC=C1)OC)[C@@H]1[C@@H](CCCC1)O)C | C16H25NO2
